US06949542B2
8-Chloro-7-fluoro-4-[3-(6-methyl-pyridin-3-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (4-chloro-5-fluoro-2-{3-[3-(6-methyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert-butyl ester (Example M20) (241 mg, 0.48 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as an off-white solid (124 mg).

reactant | (4-chloro-5-fluoro-2-{3-[3-(6-methyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert-butyl ester | 0.48 mmol, 241 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)F)Cl)NC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)C)=O)=O | C26H25ClFN3O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Chloro-7-fluoro-4-[3-(6-methyl-pyridin-3-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C=2C=NC(=CC2)C)=O)C1)F | C21H15ClFN3O
